US07276505B2
Step 4: Preparation of methyl 4-chlorocinnoline-3-carboxylate
Thionyl chloride (8.15 g, 5 ml) was added dropwise under inert atmosphere to methyl 4-hydroxycinnoline-3-carboxylate (0.50 g, 2.45 mmol). The mixture was heated to reflux for 1.5 h, cooled to room temperature and excess thionyl chloride was removed under vacuum. Toluene (5 ml) was added to the residue. The mixture was stirred at room temperature overnight. The solids were collected by filtration and dried under vacuum. The title compound was isolated as a brown solid (248 mg, 1.11 mmol, 45%). LCMS: m/z 223 [M+H]+.

reactant | Thionyl chloride | 5 ml, 8.15 g | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 4-hydroxycinnoline-3-carboxylate | 2.45 mmol, 0.50 g | OC1=C(N=NC2=CC=CC=C12)C(=O)OC | C10H8N2O3
product | methyl 4-chlorocinnoline-3-carboxylate | ClC1=C(N=NC2=CC=CC=C12)C(=O)OC | C10H7ClN2O2
